* My First Voltage Divider (This is the title line!)
V1 1 0 10V        * 10V source connected to Node 1 and Ground
R1 1 2 5k         * Resistor 1 between Node 1 and 2
R2 2 0 5k         * Resistor 2 between Node 2 and Ground

.OP               * Tell SPICE to calculate DC voltages
.control          * (For LTspice/Ngspice)
run
print v(2)        * We expect to see 5V here
.endc
.end